US04716235
A 2 l four neck round bottom flask equipped with a reflux condenser was charged with 25 g (89.6 mmol) of N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine, 500 mg of active carbon and 500 ml of dry dichloromethane, to which 16 g of trichloromethylchloroformate was added through a dropping funnel at room temperature for about 20 minutes with stirring, and the mixture was heated under reflux on the oil bath for 5 hours. After further adding 16 g of trichloromethyl formate dropwise, the mixture was heated under reflux for 5 hours. Then, after distilling away most of dichloromethane including phosgene from the reaction mixture, the residue was cooled to room temperature and filtered off to remove the active carbone. The obtained filtrate was transferred into a 200 ml recovery flask, and dichloromethane was completely removed under reduced pressure, which resulted in a white solid from the oily residue, to give 28.0 g of crystalline N-[1(S)-ethoxy-carbonyl-3-phenylpropyl]-L-alanine.N-carboxyanhydride in a quantitative yield (purity: 98%).

reactant | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine | 89.6 mmol, 25 g | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C15H21NO4
reactant | trichloromethylchloroformate | 16 g | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | trichloromethyl formate | 16 g | C(=O)OC(Cl)(Cl)Cl | C2HCl3O2
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-[1(S)-ethoxy-carbonyl-3-phenylpropyl]-L-alanine | 28.0 g, quantitative yield | C(C)O[C@@H](CC(C1=CC=CC=C1)=C=O)N[C@@H](C)C(=O)O | C15H19NO4
